US06620811B2
N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-(2,2,2-trifluoro-ethoxy)-isonicotinamide
From 2-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide with sodium hydride and 2,2,2-trifluoroethanol in dioxane and DMF. ES-MS m/e (%): 491 (M+Na+, 81), 469 (M+H+, 100).

reactant | 2-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | ClC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17ClN4O3S
reactant | sodium hydride | [H-].[Na+]
reactant | 2,2,2-trifluoroethanol | FC(CO)(F)F | C2H3F3O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-(2,2,2-trifluoro-ethoxy)-isonicotinamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC(=NC=C2)OCC(F)(F)F)=O)N2CCOCC2 | C20H19F3N4O4S
